US05190934
To a solution of 19.6 g of methyl 2-(4-chlorophenyl)acrylate in 200 ml of dry chloroform, under an inert atmosphere are added 47.06 g of 55% m-chloroperbenzoic acid and the resulting solution is refluxed for 18 hours. The mixture is then cooled and the solid removed by filtration. Evaporation in vacuo of the filtrate and chromatography of the residue on silica-gel affords methyl 2-(4-chlorophenyl)-2,3-epoxy-propionate as a colourless oil.

reactant | methyl 2-(4-chlorophenyl)acrylate | 19.6 g | ClC1=CC=C(C=C1)C(C(=O)OC)=C | C10H9ClO2
reactant | m-chloroperbenzoic acid | 47.06 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-(4-chlorophenyl)-2,3-epoxy-propionate | ClC1=CC=C(C=C1)C1(C(=O)OC)CO1 | C10H9ClO3
